US07732603B2
4-(7-Methyl-6-oxo-5,6,7,8-tetrahydro-imidazo[1,5-a]pyrazin-5-yl)-benzonitrile hydrochloride
The title compound is prepared analogously to Example 1, i.e., 4-(7-methyl-6-oxo-5,6,7,8-tetrahydro-imidazol[1,5-a]pyrazin-5-yl)-benzonitrile, obtained analogously to Example 1, is dissolved in acetone, then treated with Et2O—HCl(g) to afford the hydrochloride salt: m.p. 222-224° C.; 1H-NMR (DMSO-d6) 9.07 (1H, s), 7.92 (2H, d, J=8.2), 7.48 (1H, s), 7.49 (2H, d, J=8.2), 6.46 (1H, s), 4.83 (2H, s), 3.03 (3H, s); 13C-NMR (DMSO-d6) δ 162.5, 140.5, 134.3, 133.4, 128.7, 125.1, 118.6, 115.7, 112.4, 60.9, 43.1, 34.9; e/z (ES) 253 (M+1, 100%); calculated for C14H12N4O HCl 0.4H2O, C, 56.82; H, 4.70; N, 18.93. found C, 56.88; H, 4.54; N, 18.89.

reactant | 4-(7-methyl-6-oxo-5,6,7,8-tetrahydro-imidazol[1,5-a]pyrazin-5-yl)-benzonitrile | CN1CC=2N(C(C1=O)C1=CC=C(C#N)C=C1)C=NC2 | C14H12N4O
reactant | Et2O—HCl | O(CC)CC.Cl
solvent | acetone | CC(=O)C | C3H6O
product | 4-(7-Methyl-6-oxo-5,6,7,8-tetrahydro-imidazo[1,5-a]pyrazin-5-yl)-benzonitrile hydrochloride | Cl.CN1CC=2N(C(C1=O)C1=CC=C(C#N)C=C1)C=NC2 | InChI=1S/C14H12N4O.ClH/c1-17-8-12-7-16-9-18(12)13(14(17)19)11-4-2-10(6-15)3-5-11;/h2-5,7,9,13H,8H2,1H3;1H
